US06797718B2
Benzyltrimethylammonium chloride (4.61 g, 24.8 mmol) was added to a mixture of tert-butyl 2-hydroxyethylcarbamate (40.0 g, 248 mmol), dichloromethane (600 mL), and 50% aqueous sodium hydroxide (400 mL). Benzyl bromide (29.5 mL, 248 mmol) was then added, and the reaction was stirred for three hours. Ice water was added (1 L), and the aqueous solution was extracted with chloroform (5×). The combined organic solutions were washed with water (2×) and brine (3×), dried over magnesium sulfate, filtered, and concentrated under reduced pressure. Upon concentration, a white precipitate formed, and the organic solution was washed again with water (3×100 mL). The combined washings were extracted with chloroform (3×50 mL). The combined organic solutions were washed with brine (3×50 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide 59.1 g of tert-butyl 2-(benzyloxy)ethylcarbamate as a colorless oil.

reactant | tert-butyl 2-hydroxyethylcarbamate | 248 mmol, 40.0 g | OCCNC(OC(C)(C)C)=O | C7H15NO3
reactant | sodium hydroxide | 400 mL | [OH-].[Na+]
reactant | Benzyl bromide | 248 mmol, 29.5 mL | C(C1=CC=CC=C1)Br | C7H7Br
catalyst | Benzyltrimethylammonium chloride | 24.8 mmol, 4.61 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
product | tert-butyl 2-(benzyloxy)ethylcarbamate | 59.1 g | C(C1=CC=CC=C1)OCCNC(OC(C)(C)C)=O | C14H21NO3
